US07786165B2
{4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol
Methyl 4-[(2-phenyl-1H-indol-1-yl)methyl]benzoate (2.8 g, 8.20 mmol) was dissolved in anhydrous tetrahydrofuran (100 mL), and the solution was ice-cooled. To this solution was added dropwise a solution (13.5 mL, 20.3 mmol) of 1.5 mol/L diisobutylaluminum hydride in toluene. This solution was stirred under ice-cooling for 4 hr. An aqueous citric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:4-1:2) to give the title compound (2.25 g, yield 88%) as a colorless oil.

reactant | Methyl 4-[(2-phenyl-1H-indol-1-yl)methyl]benzoate | 8.20 mmol, 2.8 g | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(C(=O)OC)C=C1 | C23H19NO2
reactant | diisobutylaluminum hydride | 20.3 mmol, 1.5 mol/L, 13.5 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | {4-[(2-phenyl-1H-indol-1-yl)methyl]phenyl}methanol | 2.25 g, yield 88% | C1(=CC=CC=C1)C=1N(C2=CC=CC=C2C1)CC1=CC=C(C=C1)CO | C22H19NO
